US07985764B2
A 415 mg portion of 1-benzyl-N-(diaminomethylene)-3-formyl-1H-indole-5-carboxamide was suspended in 15 ml of methanol, 98 mg of sodium borohydride was added at 0° C., followed by stirring at room temperature for 1.5 hours. After evaporation of the solvent and subsequent addition of water, the thus precipitated solid was purified by silica gel column chromatography (Clomatorex (registered trademark), methanol:chloroform:water=50:1:0.1 to 30:1:0.1 to 20:1:0.1 to 10:1:0.1). The thus obtained product was crystallized from methanol/water to obtain 325 mg of 1-benzyl-N-(diaminomethylene)-3-hydroxymethyl-1H-indole-5-carboxamide as a pale pink solid.

reactant | 1-benzyl-N-(diaminomethylene)-3-formyl-1H-indole-5-carboxamide | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C(=O)N=C(N)N)C=O | C18H16N4O2
reactant | sodium borohydride | 98 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-benzyl-N-(diaminomethylene)-3-hydroxymethyl-1H-indole-5-carboxamide | 325 mg | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C(=O)N=C(N)N)CO | C18H18N4O2
